US07211573B2
1.96 g (6.24 mmol) (S)-3-(2-Amino-4-fluoro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid and 1.20 g (6.24 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride in 25 ml dimethylformamide were stirred overnight at room temperature. Extraction with water/ethylacetate and removal of the solvent by distillation yielded 1.58 g (86%) ((S)-2-fluoro-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester, MS m/e (%): 314 (M+NH4+, 13), 297 (M+H+, 40), 241 (100), 197 (63).

reactant | (S)-3-(2-Amino-4-fluoro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid | 6.24 mmol, 1.96 g | NC1=C(OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C=CC(=C1)F | C14H19FN2O5
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride | 6.24 mmol, 1.20 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | ((S)-2-fluoro-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 1.58 g, 86% | C(C)(C)(C)OC(N[C@H]1COC2=C(NC1=O)C=C(C=C2)F)=O | C14H17FN2O4
